US07476399B2
N-(2-(furan-2-ylmethylthio)ethyl)-4-methoxy-3-methylbenzamide
Prepared in a similar manner as described in example 4 from 4-methoxy-3-methylbenzoic acid and 2-(furan-2-ylmethylthio)ethanamine. Yield 58%. 1H NMR (500 MHz, CDCl3) 2.23 (s, 3H), 2.76 (t, 2H, J=6.37 Hz), 3.59 (q, 2H, J=12.2 Hz), 3.76 (s, 2H), 3.86 (s, 3H), 6.22 (dd, 1H, J=3.49 Hz, J=2.67 Hz), 6.30 (dd, 1H, J=3.04 Hz, J=1.78 Hz), 6.46 (m, 1H, broad), 6.83 (d, 1H, J=8.51 Hz), 7.34(dd, 1H, J=1.97 Hz, J=1 Hz), 7.56 (d, 1H, J=1.72 Hz), 7.61(dd, 1H, J=8.53 Hz, J=2.25 Hz). MS (M+H, 306).

reactant | 4-methoxy-3-methylbenzoic acid | COC1=C(C=C(C(=O)O)C=C1)C | C9H10O3
reactant | 2-(furan-2-ylmethylthio)ethanamine | O1C(=CC=C1)CSCCN | C7H11NOS
product | N-(2-(furan-2-ylmethylthio)ethyl)-4-methoxy-3-methylbenzamide | Yield 58% | O1C(=CC=C1)CSCCNC(C1=CC(=C(C=C1)OC)C)=O | C16H19NO3S
